US06821992B1
To a solution of N-hydroxyphthalimide (3.55 g) in dimethylformamide (50 ml) was added potassium carbonate (3.0 g) to give a thick yellow suspension which was stirred for 1 hour. 3-Chloro-2-chloromethyl-5-trifluoromethylpyridine (5.0 g) was added and the reaction stirred at room temperature for 20 hours. The mixture was filtered and the filtrate poured into water. The resulting white solid was isolated by filtration, washed with water, redissolved in ethyl acetate and the organic solution dried and evaporated to yield the intermediate phthalimide as a white solid. The phthalimide (2.0 g) was dissolved in methanol (20 ml) and the resulting solution treated with hydrazine hydrate (0.42 g). The reaction was left to stand for 19 hours before heating at reflux for 3 hours to yield a white precipitate. The reaction mixture was filtered and the methanol filtrate evaporated. The residue was treated with diethyl ether and refiltered. Evaporation of the filtrate yielded the title compound as a green yellow oil.

reactant | N-hydroxyphthalimide | 3.55 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | potassium carbonate | 3.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-Chloro-2-chloromethyl-5-trifluoromethylpyridine | 5.0 g | ClC=1C(=NC=C(C1)C(F)(F)F)CCl | C7H4Cl2F3N
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
